US06974812B2
(B) 2-(3-Carboxy-4-methyl-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid
To a solution of 5-Amino-2-methyl-benzoic acid hydrochloride salt (15.2 g, 81.2 mmol) in acetic acid (300 mL) was added concentrated HCl (21.0 mL). The resulting slurry was stirred at ambient temperature for 30 minutes. The reaction was then cooled to 10° C., and a solution of sodium nitrite (6.17 g, 89.4 mmol) in water (15 mL) was added dropwise. The reaction was stirred at 10° C. for 30 minutes, when sodium acetate (14.7 g, 179.0 mmol) and (3-ethoxycarbonylamino-3-oxo-propionyl)-carbamic acid ethyl ester (J. Chem. Soc. Perkins Trans. I, 1991, 2317) (22.0 g, 89.4 mmol) were added. The reaction was let stir at 10° C. for 20 minutes, then warmed to room temperature and stirred for 1 hour. Sodium acetate (6.7 g, 81.2 mmol) was then added and the reaction refluxed for 14 hours. A 50% aqueous solution of H2SO4 (88.0 mL) was added and the reaction refluxed for 2 hours. The reaction was cooled, then water (50 mL) added. The resulting tan precipitate was filtered, washed with water, and dried to give the title compound (17.8 g).

reactant | 5-Amino-2-methyl-benzoic acid hydrochloride salt | 81.2 mmol, 15.2 g | Cl.NC=1C=CC(=C(C(=O)O)C1)C
reactant | HCl | 21.0 mL | Cl | ClH
reactant | sodium nitrite | 89.4 mmol, 6.17 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 179.0 mmol, 14.7 g | C(C)(=O)[O-].[Na+]
reactant | (3-ethoxycarbonylamino-3-oxo-propionyl)-carbamic acid ethyl ester | 89.4 mmol, 22.0 g | C(C)OC(NC(CC(=O)NC(=O)OCC)=O)=O | C9H14N2O6
reactant | Sodium acetate | 81.2 mmol, 6.7 g | C(C)(=O)[O-].[Na+]
reactant | H2SO4 | 88.0 mL | OS(=O)(=O)O | H2O4S
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | water | 15 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 2-(3-Carboxy-4-methyl-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid | 17.8 g | C(=O)(O)C=1C=C(C=CC1C)N1N=C(C(NC1=O)=O)C(=O)O | C12H9N3O6
